US05622976
To a suspension of sodium hydride (0.4 g) in N,N-dimethylformamide was added 3-amino-5-(quinuclidin-3-yl)-1,2,4-oxadiazole (0.2 g) at 0° C. and the mixture was stirred for 1 hour. To the mixture was added (1-benzylpiperidin-4-yl)acetyl chloride hydrochloride (2.53 g) during 30 minutes at 0° C. After stirred for additional 1 hour. The mixture was quenched with water and extracted with ethyl acetate. The extract was washed with water, brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on alumina with chloroform to give 3-{(1-benzylpiperidin-4-yl)acetylamino}-5-(quinuclidin-3-yl)-1,2,4-oxadiazole (0.11 g).

reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 3-amino-5-(quinuclidin-3-yl)-1,2,4-oxadiazole | 0.2 g | NC1=NOC(=N1)C1CN2CCC1CC2 | C9H14N4O
reactant | (1-benzylpiperidin-4-yl)acetyl chloride hydrochloride | 2.53 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)CC(=O)Cl
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-{(1-benzylpiperidin-4-yl)acetylamino}-5-(quinuclidin-3-yl)-1,2,4-oxadiazole | 0.11 g | C(C1=CC=CC=C1)N1CCC(CC1)CC(=O)NC1=NOC(=N1)C1CN2CCC1CC2 | C23H31N5O2
